US05084457
To a stirred mixture of 7.97 g of 2-methylaminobenzamide and 200 ml of ether was added dropwise, a solution of 10 g of 3-methylbenzoyl isothiocyanate in ether over 10 minutes. After 48 hours the solid was collected, giving 15.5 g of N-[[[2-aminocarbonyl)phenyl]methylamino]thioxomethyl]-3-methylbenzamide.

reactant | 2-methylaminobenzamide | 7.97 g | CNC1=C(C(=O)N)C=CC=C1 | C8H10N2O
reactant | 3-methylbenzoyl isothiocyanate | 10 g | CC=1C=C(C(=O)N=C=S)C=CC1 | C9H7NOS
solvent | ether | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 3-methylbenzamide | CC=1C=C(C(=O)N)C=CC1 | C8H9NO
